US06329370B1
1-(3,5-Dichloro-pyridin-4-ylmethyl)-6-methoxy-5-(5-morpholin-4-yl-pent-1-ynyl)-phthalazine dihydrochloride (Compound 36)
Trifluoromethanesulfonic acid 1-(3,5-dichloro-pyridin-4-ylmethyl)-6-methoxy-phthalazin-5-yl ester (0.935 g, 2 mmoles), prepared as described in example 73, 4-pent-4-ynyl-morpholine (0.37 g, 2.4 mmoles), diethylamine (9 ml) and dry acetonitrile (6 ml), then bis(triphenylphosphine)PdCl2 (0.014 g, 0.02 mmole) and CuI (0.004 g, 0.02 mmole) were charged in a flask under N2 and the mixture was stirred at room temperature overnight, brought to dryness, the residue taken up in ethyl acetate and washed with water. The organic phase was washed with water, anhydrified and concentrated to give an oil which was flash chromatographed (eluent: CH2Cl2/CH3OH/NH3 95:5:0.5) to give an oil which was dissolved in ethyl acetate and precipitated by adding HCl in ethyl ether. There was yielded 0.09 g of the title compound. m.p.: 129-13 1° C. (dec.).

reactant | Trifluoromethanesulfonic acid 1-(3,5-dichloro-pyridin-4-ylmethyl)-6-methoxy-phthalazin-5-yl ester | 2 mmoles, 0.935 g | ClC=1C=NC=C(C1CC1=NN=CC2=C(C(=CC=C12)OC)OS(=O)(=O)C(F)(F)F)Cl | C16H10Cl2F3N3O4S
reactant | 4-pent-4-ynyl-morpholine | 2.4 mmoles, 0.37 g | C(CCC#C)N1CCOCC1 | C9H15NO
reactant | diethylamine | 9 ml | C(C)NCC | C4H11N
reactant | acetonitrile | 6 ml | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | CuI | 0.02 mmole, 0.004 g | [Cu]I
product | 1-(3,5-Dichloro-pyridin-4-ylmethyl)-6-methoxy-5-(5-morpholin-4-yl-pent-1-ynyl)-phthalazine dihydrochloride | 0.09 g | Cl.Cl.ClC=1C=NC=C(C1CC1=NN=CC2=C(C(=CC=C12)OC)C#CCCCN1CCOCC1)Cl | InChI=1S/C24H24Cl2N4O2.2ClH/c1-31-24-7-6-17-20(18(24)5-3-2-4-8-30-9-11-32-12-10-30)14-28-29-23(17)13-19-21(25)15-27-16-22(19)26;;/h6-7,14-16H,2,4,8-13H2,1H3;2*1H
